US08012974B2
2-Bromo-7-methyl-5H-pyrrolo[2,3-b]pyrazine (0.279 g, 1.321) was dissolved in DMF (5 mL) and cooled down to 0° C. NaH (60%, 63 mg, 1.58 mmol) was added slowly. After the addition was complete stirring was continued for 30 minutes at 0° C. (2-Chloromethoxy-ethyl)-trimethyl-silane (0.28 mL, 1.58 mmol) was added and the reaction mixture was allowed to warm up overnight. The reaction was quenched with H2O. The aqueous layer was extracted with EtOAc. The organic layer was dried (MgSO4), filtered, concentrated, and purified by SiO2 chromatography (24 g SiO2, hexanes/EtOAc 0-35% EtOAc) to give 340 mg of 2-bromo-7-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine as a yellow liquid (77% yield).

reactant | 2-Bromo-7-methyl-5H-pyrrolo[2,3-b]pyrazine | 0.279 g | BrC=1N=C2C(=NC1)NC=C2C | C7H6BrN3
reactant | NaH | 1.58 mmol, 63 mg | [H-].[Na+]
reactant | (2-Chloromethoxy-ethyl)-trimethyl-silane | 1.58 mmol, 0.28 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-bromo-7-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine | 340 mg, 77% yield | BrC=1N=C2C(=NC1)N(C=C2C)COCC[Si](C)(C)C | C13H20BrN3OSi
